US09079985B2
4-Bromo-6-tert-butyl-2-isobutyl-5-methoxyindan-1-one
To a mixture of 24.9 g (90.9 mmol) of 6-tert-butyl-2-isobutyl-5-methoxyindan-1-one, 25.8 g of potassium acetate, 0.5 g of Et4NI, 50 ml of dichloromethane and 150 ml of water 4.66 ml (14.5 g, 90.9 mmol) of bromine was added dropwise by vigorous stirring at 5° C. for 5 min. This mixture was stirred at 5° C. for 3 h, then 15.2 g of potassium acetate was added, and finally 2.56 ml (8.24 g, 51.6 mmol) of bromine was added. The resulting mixture was additionally stirred at this temperature for 1 h. and then washed by aqueous Na2SO3 to remove an excess of bromine. The product was extracted by 3×150 ml of dichloromethane, The combined organic extract was dried over K2CO3, evaporated to dryness, and the residue was dried in vacuum. This procedure gave 31.9 g (99%) of yellowish crystalline material which was further used without an additional purification.

reactant | 6-tert-butyl-2-isobutyl-5-methoxyindan-1-one | 90.9 mmol, 24.9 g | C(C)(C)(C)C1=C(C=C2CC(C(C2=C1)=O)CC(C)C)OC | C18H26O2
reactant | potassium acetate | 25.8 g | C(C)(=O)[O-].[K+]
reactant | water | 90.9 mmol, 150 ml, 14.5 g | O | H2O
reactant | bromine | BrBr | Br2
reactant | potassium acetate | 15.2 g | C(C)(=O)[O-].[K+]
reactant | bromine | 51.6 mmol, 2.56 ml, 8.24 g | BrBr | Br2
catalyst | Et4NI | 0.5 g | [N+](CC)(CC)(CC)CC.[I-]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Bromo-6-tert-butyl-2-isobutyl-5-methoxyindan-1-one | 31.9 g, 99% | BrC1=C2CC(C(C2=CC(=C1OC)C(C)(C)C)=O)CC(C)C | C18H25BrO2
